US07737145B2
A solution of methyl 4-[[hexahydro-4-[[4-(2,2,3,3,3-pentafluoropropoxy)-phenyl]methyl]-1H-1,4-diazepin-1-yl]methyl]benzoate (0.35 g, 0.72 mmol) in a 1 to 1 mixture of THF and methanol (20 mL) was stirred as an aqueous 2N sodium hydroxide solution (9.8 mL, 27 eq) was added. After 16 h, the reaction mixture was concentrated. The residue was suspended in water (5 mL) and acidified to a pH of 6 with an aqueous 2N HCl solution. The resulting solid was collected by filtration and dried to afford 0.27 g of 4-[[hexahydro-4-[[4-(2,2,3,3,3-pentafluoropropoxy)phenyl]methyl]-1H-1,4-diazepin-1-yl]methyl]benzoic acid; 1H NMR (400 MHz, CD3OD) δ 7.92 (d, 2H), 7.40 (d, 4H), 7.05 (d, 2H), 4.60 (t, 2H), 4.02 (s, 2H), 3.92 (s, 2H), 3.20 (m, 2H), 3.05 (m, 2H), 2.98 (m, 4H), 2.0 (m, 2H) ppm.

reactant | methyl 4-[[hexahydro-4-[[4-(2,2,3,3,3-pentafluoropropoxy)-phenyl]methyl]-1H-1,4-diazepin-1-yl]methyl]benzoate | 0.72 mmol, 0.35 g | FC(COC1=CC=C(C=C1)CN1CCN(CCC1)CC1=CC=C(C(=O)OC)C=C1)(C(F)(F)F)F | C24H27F5N2O3
reactant | THF | C1CCOC1 | C4H8O
reactant | sodium hydroxide | 2N, 9.8 mL, 27 eq | [OH-].[Na+]
solvent | methanol | 20 mL | CO | CH4O
product | 4-[[hexahydro-4-[[4-(2,2,3,3,3-pentafluoropropoxy)phenyl]methyl]-1H-1,4-diazepin-1-yl]methyl]benzoic acid | 0.27 g | FC(COC1=CC=C(C=C1)CN1CCN(CCC1)CC1=CC=C(C(=O)O)C=C1)(C(F)(F)F)F | C23H25F5N2O3
